US05100891
To a stirred solution of 1,4-dihydrocyclopent[b]indol-3(2H)-one (10.0 g) in acetonitrile (100 ml) was added di-t-butylpyrocarbonate (15 g), followed by 4-dimethylaminopyridine (700 mg). The mixture was stirred overnight at room temperature under nitrogen. The solvent was removed under reduced pressure and the residue was purified by flash column chromatography to provide 4-t-butyloxycarbonyl-1,4-dihydrocyclopent[b]indole-3(2H)-one (4.5 g) as a solid.

reactant | 1,4-dihydrocyclopent[b]indol-3(2H)-one | 10.0 g | C1CC(C=2NC=3C=CC=CC3C21)=O | C11H9NO
reactant | di-t-butylpyrocarbonate | 15 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
catalyst | 4-dimethylaminopyridine | 700 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-t-butyloxycarbonyl-1,4-dihydrocyclopent[b]indole-3(2H)-one | 4.5 g | C(C)(C)(C)OC(=O)N1C2=C(C=3C=CC=CC13)CCC2=O | C16H17NO3
